US06573263B2
Analogously to Example 40A, 250 mg (1.94 mmol) of oxalyl chloride, 330 mg (4.2 mmol) of dimethyl sulphoxide, 750 mg (1.61 mmol) of 2-(1-hydroxyethyl)-N-{1-[3-(4-methoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-5-phenyl-pentanamide and 820 mg (8.07 mmol) of triethylamine are reacted to give 2-acetyl-N-{1-[3-(4-methoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-5-phenyl-pentanamide.

reactant | oxalyl chloride | 1.94 mmol, 250 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulphoxide | 4.2 mmol, 330 mg | CS(=O)C | C2H6OS
reactant | 2-(1-hydroxyethyl)-N-{1-[3-(4-methoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-5-phenyl-pentanamide | 1.61 mmol, 750 mg | OC(C)C(C(=O)NC(C)C=1C(NC(=NN1)CC1=CC=C(C=C1)OC)=O)CCCC1=CC=CC=C1 | C26H32N4O4
reactant | triethylamine | 8.07 mmol, 820 mg | C(C)N(CC)CC | C6H15N
product | 2-acetyl-N-{1-[3-(4-methoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-5-phenyl-pentanamide | C(C)(=O)C(C(=O)NC(C)C=1C(NC(=NN1)CC1=CC=C(C=C1)OC)=O)CCCC1=CC=CC=C1 | C26H30N4O4
